US04341775
A mixture of ethyl 4-chloro-4-oxo-2-propargyloxyiminobutyrate (syn isomer, 61 g), thiourea (20 g), sodium acetate 3-hydrate (35.8 g), water (150 ml), and ethanol (180 ml) was stirred at 40° C. for 1.25 hrs. The reaction mixture was treated in a conventional manner to give ethyl 2-(2-aminothiazol-4-yl)-2-propargyloxyiminoacetate (syn isomer, 35.6 g).

reactant | ethyl 4-chloro-4-oxo-2-propargyloxyiminobutyrate | 61 g | ClC(CC(C(=O)OCC)=NOCC#C)=O | C9H10ClNO4
reactant | thiourea | 20 g | NC(=S)N | CH4N2S
reactant | water | 150 ml | O | H2O
solvent | ethanol | 180 ml | C(C)O | C2H6O
product | ethyl 2-(2-aminothiazol-4-yl)-2-propargyloxyiminoacetate | 35.6 g | NC=1SC=C(N1)C(C(=O)OCC)=NOCC#C | C10H11N3O3S
